US06313299B1
7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-1-(2,4-difluorophenyl)-6-fluoro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid.
110 mg of 1-(2,4-difluorophenyl)-6-fluoro-7-chloro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid and 120 mg of t-butyl 8-(methoxyimino)-2,6-diazaspiro[3,4]octane-2-carboxylate were added to 10 ml of acetonitrile and thereto 0.5 ml of triethylamine was added dropwise. The resulting mixture was stirred for 4 hours at 50° C. and then for 2 hours at the room temperature. The precilitated solid was filtered and dried to give 150 mg of the titled compound(yield: 79.9%).

reactant | 1-(2,4-difluorophenyl)-6-fluoro-7-chloro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid | 110 mg | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)O | C15H6ClF3N2O3
reactant | t-butyl 8-(methoxyimino)-2,6-diazaspiro[3,4]octane-2-carboxylate | 120 mg | CON=C1CNCC12CN(C2)C(=O)OC(C)(C)C | C12H21N3O3
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-1-(2,4-difluorophenyl)-6-fluoro-4-oxo-1,4-dihydro-1,8-naphthyridine-3-carboxylic acid | 150 mg, yield: 79.9% | C(C)(C)(C)OC(=O)N1CC2(C1)CN(CC2=NOC)C2=C(C=C1C(C(=CN(C1=N2)C2=C(C=C(C=C2)F)F)C(=O)O)=O)F | C27H26F3N5O6
